US08486950B2
To a cooled (0° C.) solution of 4-amino-2-bromopyridine (346 mg, 2.0 mmol) and diisopropylethylamine (461 mg, 4.0 mmol) in dichloromethane (5 mL) and CH3CN (0.5 mL) was added a solution of 2-chloro-4-cyano-6-fluorobenzoyl chloride (484 mg, 2.2 mmol) in dichlormethane (5 mL) drop wise. The reaction mixture was warmed up to room temperature and stirred for 16 hours. The reaction was quenched with saturated NH4Cl (40 mL) and extracted with EtOAc (3×50 mL). The combined organic extractss were dried with Na2SO4 and concentrated under reduced pressure. The residue wars purified by silica gel column chromatography (0-50% EtOAc/hexane) to give N-(2-bromopyridin-4-yl)-2-chloro-4-cyano-6-fluorobenzamide as an off-white solid (379 mg, yield: 53%).

reactant | 4-amino-2-bromopyridine | 2.0 mmol, 346 mg | NC1=CC(=NC=C1)Br | C5H5BrN2
reactant | diisopropylethylamine | 4.0 mmol, 461 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloro-4-cyano-6-fluorobenzoyl chloride | 2.2 mmol, 484 mg | ClC1=C(C(=O)Cl)C(=CC(=C1)C#N)F | C8H2Cl2FNO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | CH3CN | 0.5 mL | CC#N | C2H3N
solvent | dichlormethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-bromopyridin-4-yl)-2-chloro-4-cyano-6-fluorobenzamide | 379 mg, yield: 53% | BrC1=NC=CC(=C1)NC(C1=C(C=C(C=C1F)C#N)Cl)=O | C13H6BrClFN3O
